US07790770B2
(3-Fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)(4-fluorophenyl)methanone (3.3 g, 9.88 mmol) was stirred in anhydrous THF (20 mL) at r.t. under N2. (R)-(+)-2-Methylpropane-2-sulfinamide (1.21 g, 10 mmol, 1.01 eq) was added as one single portion, followed by addition of Ti(OEt)4 (3.09 mL, 14.91 mmol, 1.51 eq). The resulting solution was heated at reflux for 48 hours. The cooled mixture was evaporated. H2O (100 mL) was added, followed by the addition of EtOAc (100 mL). The mixture was filtered through celite, and washed with EtOAc (200 mL). The filtrate was washed with H2O and brine, dried over Na2SO4, filtered, and concentrated to dryness. The residue was purified by silica gel flash chromatography and was eluted with hexanes and EtOAc (0-30% EtOAc in hexanes) to give (R)—N-((3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)(4-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide as yellowish viscous oil which solidified after drying under vacuum as light yellow solids (3.50 g, yield: 81.0%). LC-MS ESI 437.88 (M+H), retention time=3.83 min (10-90% MeOH in H2O with 0.1% TFA in a 4-min gradient); 1H NMR (400 MHz, CDCl3) δ ppm 7.82-6.99 (br, m, 7H), 5.90 (tt, J=52, 4 Hz, 1H), 1.31 (s, 9H).

reactant | (3-Fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)(4-fluorophenyl)methanone | 9.88 mmol, 3.3 g | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)C(=O)C1=CC=C(C=C1)F | C15H8F6O2
reactant | (R)-(+)-2-Methylpropane-2-sulfinamide | 10 mmol, 1.21 g, 1.01 eq | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)—N-((3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)(4-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)C(=N[S@](=O)C(C)(C)C)C1=CC=C(C=C1)F | C19H17F6NO2S
